US08193237B2
N-(5-Bromo-2-furoyl)-2-hydroxyethylamine (Reference compound 24-1)
O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.66 g, 1.7 mmol), N,N-diisopropylethylamine (0.82 mL, 4.7 mmol) and 2-aminoethanol (0.14 mL, 2.4 mmol) were added to a solution of 5-bromo-2-furoic acid (0.30 g, 1.6 mmol) in dichloromethane (15 mL), and the mixture was stirred at room temperature overnight. After the reaction mixture was concentrated under reduced pressure, water (5 mL) was added thereto. The whole was extracted with ethyl acetate (10 mL), and the organic layer was washed with brine (5 mL) and dried over anhydrous magnesium sulfate. After the solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography to give the title reference compound (0.18 g) as a colorless solid (yield 49%).

reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.7 mmol, 0.66 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 4.7 mmol, 0.82 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-aminoethanol | 2.4 mmol, 0.14 mL | NCCO | C2H7NO
reactant | 5-bromo-2-furoic acid | 1.6 mmol, 0.30 g | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-(5-Bromo-2-furoyl)-2-hydroxyethylamine | 0.18 g, yield 49% | BrC1=CC=C(O1)C(=O)NCCO | C7H8BrNO3
